US05420128
7-Hydroxy-6-(1-hydroxyethyl)-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine
A mixture of 108 mg of 7-hydroxy-6-acetyl-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine, 46 mg of sodium borohydride, 2.3 ml of aqueous solution of 2N sodium hydroxide and 5 ml of ethanol was heated and refluxed. One hour later, the reaction mixture was concentrated in vacuo, 4 ml of water was added to the residue, and the mixture was neutralized with 2N hydrochloric acid. The precipitate was filtered, washed in water, dried, and the title compound was obtained (87 mg).

reactant | 7-hydroxy-6-acetyl-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | 108 mg | OC1=C(C=NC=2N1N=CC2C2=CC=C(C=C2)SC2=CC=CC=C2)C(C)=O | C20H15N3O2S
reactant | sodium borohydride | 46 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-Hydroxy-6-(1-hydroxyethyl)-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | OC1=C(C=NC=2N1N=CC2C2=CC=C(C=C2)SC2=CC=CC=C2)C(C)O | C20H17N3O2S
